US08461167B2
N-(3-(2-((dimethylamino)methyl)-1H-Imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide
3-Iodo-4-methylbenzoyl chloride (2.2 g, 7.88 mmol), dissolved in anhydrous THF (13 mL), was added dropwise to a solution of 3-(2-((dimethylamino)methyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)aniline (1.5 g, 5.5 mmol), DIPEA (2.1 mL, 11.8 mmol) in THF (30 mL) at −5° C. The resultant solution was stirred at ambient temperature overnight. The solvent was removed in vacuo and the crude residue was redissolved in CH2Cl2 and washed with 1N NaOH. The organic layer was then washed with water, and brine then dried over NaSO4 before being concentrated in vacuo. The brown colored residue was then triturated in a mixture of hexanes/DCM to precipitate 1.4 g of the desired product as an off-white powder: 529 m/z (M+H).

reactant | 3-Iodo-4-methylbenzoyl chloride | 7.88 mmol, 2.2 g | IC=1C=C(C(=O)Cl)C=CC1C | C8H6ClIO
reactant | 3-(2-((dimethylamino)methyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)aniline | 5.5 mmol, 1.5 g | CN(C)CC=1N(C=CN1)C=1C=C(N)C=C(C1)C(F)(F)F | C13H15F3N4
reactant | DIPEA | 11.8 mmol, 2.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 13 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(3-(2-((dimethylamino)methyl)-1H-Imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide | CN(C)CC=1N(C=CN1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)I)=O | C21H20F3IN4O
